US07514452B2
A mixture of ethyl 3-[3-(3-nitrobenzyloxy)phenyl]-2-furancarboxylate (2.21 g), reduced iron (1.75 g), ammonium chloride (0.67 g), ethanol (30 ml) and water (10 ml) was heated at reflux for 1 hour. After filtering the reaction solution through celite, the solvent in the filtrate was evaporated under reduced pressure. The residue was purified by silica gel column chromatography (eluent: ethyl acetate/hexane=1/3), thereby giving 1.60 g of ethyl 3-[3-(2-aminobenzyloxy)phenyl)-2-furancarboxylate.

reactant | ethyl 3-[3-(3-nitrobenzyloxy)phenyl]-2-furancarboxylate | 2.21 g | [N+](=O)([O-])C=1C=C(COC=2C=C(C=CC2)C2=C(OC=C2)C(=O)OCC)C=CC1 | C20H17NO6
reactant | ammonium chloride | 0.67 g | [Cl-].[NH4+]
reactant | ethanol | 30 ml | C(C)O | C2H6O
solvent | water | 10 ml | O | H2O
product | ethyl 3-[3-(2-aminobenzyloxy)phenyl)-2-furancarboxylate | 1.60 g | NC1=C(COC=2C=C(C=CC2)C2=C(OC=C2)C(=O)OCC)C=CC=C1 | C20H19NO4
